reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([N:3]1[C:5]([C:4]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[O:6]1)([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],53.944657350006
[O:1]=[C:2]1[C:3]([H:6])([H:7])[N:4]([H:8])[C:5]1([H:9])[H:10]>>[O-:1][C:2]1=[C:3]([H:7])[N+:4]([H:6])([H:8])[C:5]1([H:9])[H:10],61.1670330371185
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[C:5]([H:12])[C:4]([H:10])([H:11])[C:3]1=[O:6])([H:7])([H:8])[H:9],112.95800492995701
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:12])([H:8])([H:9])[H:10].[C:3](=[O:4])=[C:5]([C:6]([O:7][H:15])([H:13])[H:14])[H:11],74.6187347584381
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])=[O:7])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[H:17][H:21],80.7003329793707
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](=[N:2][C:3]([N:4]([H:11])[H:12])=[C:5]([O-:6])[N+:7]([H:9])([H:13])[H:14])([H:8])[H:10],74.16084356217291
[C:1](=[C:2]([C:6]#[C:7][H:14])[H:11])([H:8])[H:9].[C:3](=[C:4]=[N:5][H:10])([H:12])[H:13]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],24.314455256550488
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])=[C:6]=[C:7]([C:5]([H:14])([H:15])[H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10],96.78189933029515
[C:1]([C:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])=[C:6]=[N:7][H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],45.13037687614579
[C:1](/[C:2](=[C:3](\[O:7][C:6]([C:5]([C:4]([H:12])([H:14])[H:15])([H:16])[H:17])([H:18])[H:19])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]1([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[O:7]1)([H:11])[H:12])([H:8])([H:9])[H:10],92.567095496678
[O:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],47.23724160324049
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:4](\[C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10].[O:3]([C:5]([H:14])([H:15])[H:16])[H:12],98.1214948763341
[C:1]([C:2]([C:3]([C:4]([C:5]#[C:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:1]([C:2]([C:3]([C:4]([C:5]#[C:6][C+:7]([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])[H:10].[H:9][H:17],141.721648543685
[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[C:3][C@@:4]1([C:5](=[O:6])[H:12])[H:8],88.12924621002578
[C:1]([C:2]1([C:5]#[C:6][H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C+:2]1[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1=[C-:6][H:14])([H:7])([H:8])[H:9],66.0037021329515
[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9]>>[N+:1](#[C-:2])[C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9],59.72055293954921
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]([C:5][H:15])([O:6][H:14])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],4.753304965447299
[C:1]([C:2]#[C:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][O+:5]=[C-:4][N:6]([H:10])[H:11])([H:7])([H:8])[H:9],98.1449786603645
[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[O-:1][C:2](=[C:3]1[C:4]([H:8])([H:9])[N+:5]1([H:7])[H:10])[H:6],60.012932027564105
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[N+:7]#[C-:6])([H:11])[H:12])([H:8])([H:9])[H:10],60.4020819707788
[C:1]([C:2]([C:3]([O:4][H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1](=[C:2]([C:3]([O:4][H:12])([H:10])[H:11])[H:9])([H:5])[H:7].[H:6][H:8],115.16527111512501
[C:1]([C@@:2]1([H:11])[N:3]2[C:4]([H:12])([H:13])[C:5]1([O:6][H:14])[C:7]2([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]1[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:15])[H:16])([H:11])[H:14])([H:8])([H:9])[H:10],65.2238338630391
[O:1]=[C:2]1[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C:5](=[O:6])[C:7]1([H:12])[H:13]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[C@@:4]2([H:11])[C@:5]([H:10])([O:6]2)[C:7]1([H:12])[H:13],91.5736355850247
